US07935724B2
2-Hydroxycarbamoyl-benzo[b]thiophene-6-carboxylic acid methyl ester.
To a solution of benzo[b]thiophene-2,6-dicarboxylic acid dimethyl ester (115 mg, 0.46 mmol) in DMA/MeOH (3/1 mL) NH2OH (50% aq., 1.5 mL). The solution was stilted until the disappearance of starting material as indicated by LC/MS. After removal of solvent, MeOH/H2O was added until a precipitate forms. The solid was filtered yielding the desired material. 1H NMR (DMSO-d6) δ 11.57 (br s, 1H), 9.36 (br s, 1H), 8.67 (s, 1H), 8.05-7.87 (m, 3H), 3.87 (s, 3H). MS (EI): cal'd (MH+) 252.07, exp (MH+), 252.20.

reactant | benzo[b]thiophene-2,6-dicarboxylic acid dimethyl ester | 0.46 mmol, 115 mg | COC(=O)C1=CC2=C(S1)C=C(C=C2)C(=O)OC | C12H10O4S
reactant | NH2OH | 1.5 mL | NO | H3NO
solvent | DMA MeOH | 1 mL | CC(=O)N(C)C.CO
product | 2-Hydroxycarbamoyl-benzo[b]thiophene-6-carboxylic acid methyl ester | COC(=O)C=1C=CC2=C(SC(=C2)C(NO)=O)C1 | C11H9NO4S
